US07884109B2
3,4-Dihydro-2H-pyrano[2,3-b]pyridin-4-amine.
A catalytic amount of Pd/C (9 mg) was added to a solution of 4-azido-3,4-dihydro-2H-pyrano[2,3-b]pyridine (88 mg) in MeOH (5 mL). The flask closed with a septum, evacuated under house vacuum and hydrogen added via balloon. The resulting suspension was stirred at RT for 60 min, when the H2 balloon was removed, the mixture evacuated and filtered through a plug of celite, that was thoroughly rinsed with MeOH. Removal of the solvents gave the titled compound (73 mg), NMR CDCl3 1H δ 8.1 (dd, 1H), 7.7 (dd, 1H), 6.9 (dd, 1H), 4.5-4.3 (m, 2H), 4.1 (dd, 1H), 2.2 (m, 1H), 1.9 (m, 1H), 1.6 (br s, 2H); MH+=151.

reactant | 4-azido-3,4-dihydro-2H-pyrano[2,3-b]pyridine | 88 mg | N(=[N+]=[N-])C1CCOC2=NC=CC=C21 | C8H8N4O
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 9 mg | [Pd] | Pd
product | 3,4-Dihydro-2H-pyrano[2,3-b]pyridin-4-amine | 73 mg | O1CCC(C=2C1=NC=CC2)N | C8H10N2O
